US08703978B2
3-Methoxy-1-(5-phenyl-2-thienyl)naphthalene
A mixture of 3-methoxynaphthalene-1-yl trifluoromethanesulfonate (2.7 g, 8.82 mmol), 5-phenyl-2-thiopheneboronic acid (2.7 g, 13.24 mmol), sodium carbonate (1.4 g, 13.24 mmol) was mixed in de-gassed toluene (50 ml) and ethanol (50 ml), under nitrogen. Pd(PPh3)4 (153 mg, 1 mol %) was added and the mixture heated to reflux for 18 h. The solution was allowed to cool, poured into water (200 ml), extracted with dichloromethane (2×100 ml), dried (Na2SO4), and the solvent removed under reduced pressure. The resulting residue was dissolved in DCM and filtered through a short plug of silica. The solvent was removed under reduced pressure to give a red/brown solid, which was flash chromatographed on silica using EtOAc-hexane (1:9). The fractions were combined and the solvent removed to give the title compound (1.87 g, 67%) as a green solid.

reactant | 3-methoxynaphthalene-1-yl trifluoromethanesulfonate | 8.82 mmol, 2.7 g | FC(S(=O)(=O)OC1=CC(=CC2=CC=CC=C12)OC)(F)F | C12H9F3O4S
reactant | 5-phenyl-2-thiopheneboronic acid | 13.24 mmol, 2.7 g | C1(=CC=CC=C1)C1=CC=C(S1)B(O)O | C10H9BO2S
reactant | sodium carbonate | 13.24 mmol, 1.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 153 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Methoxy-1-(5-phenyl-2-thienyl)naphthalene | 1.87 g, 67% | COC=1C=C(C2=CC=CC=C2C1)C=1SC(=CC1)C1=CC=CC=C1 | C21H16OS
